US05108485
Preparation of Methyl 4-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-1 2-dimethyl-5-benzimidazolecarboxylate
A solution of diazomethane in ether is added dropwise to a solution of the 4-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-1,2-dimethyl-5-benzimidazolecarboxylic acid (2.50 g, 7.6% mmol) in methanol until the yellow color persists. The reaction mixture is neutralized with acetic acid and concentrated in vacuo. Preparative HPLC (silica gel, ethyl acetate eluent) affords the title product as off-white crystals (0.750 g, 28.9%), mp 240°-242° C.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 4-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-1,2-dimethyl-5-benzimidazolecarboxylic acid | 2.50 g | C(C)(C)C1(N=C(NC1=O)C1=C(C=CC=2N(C(=NC21)C)C)C(=O)O)C | C17H20N4O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | Methyl 4-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-1 2-dimethyl-5-benzimidazolecarboxylate | 0.750 g, 28.9% | C(C)(C)C1(N=C(NC1=O)C1=C(C=CC=2N(C(=NC21)C)C)C(=O)OC)C | C18H22N4O3
